US08975254B2
a) Ethyl 5-(morpholinomethyl)isoxazole-3-carboxylate
To the solution of ethyl chlorooximidoacetate (0.588 g, 3.88 mmol) and 4-(prop-2-ynyl)morpholine (0.971 g, 7.76 mmol) in toluene (5 mL) was added solution of triethylamine (0.54 mL, 3.88 mmol) in toluene (5 mL) dropwise. The resultant mixture was stirred at RT for 5 h. After the completion of the reaction as evidenced by LC-MS, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic solvent was then dried over anhydrous sodium sulfate and evaporated. The crude product was purified by Combiflash (Heptane:EtOAc eluent). Yield 0.2 g. 1H NMR (400 MHz; MeOD): δ 1.38 (t, 3H), 2.53 (m, 4H), 3.69 (m, 4H), 3.78 (d, 2H), 4.41 (q, 2H), 6.73 (m, 1H).

reactant | ethyl chlorooximidoacetate | 3.88 mmol, 0.588 g | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | 4-(prop-2-ynyl)morpholine | 7.76 mmol, 0.971 g | C(C#C)N1CCOCC1 | C7H11NO
reactant | triethylamine | 3.88 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl 5-(morpholinomethyl)isoxazole-3-carboxylate | O1CCN(CC1)CC1=CC(=NO1)C(=O)OCC | C11H16N2O4
